US07585885B2
2-(R)-[2-(S)-Azidocarbonyl-1-(S)-(tert-butyl-dimethylsilanyloxy)-3-phenylpropyl]-4-(R)-fluoropyrrolidine-1-carboxylic acid tert-butyl ester
Add an aqueous solution of hydrogen peroxide (30% solution, 2.7 mL, 28.1 mmol) dropwise to a solution of 2-(R)-[2-(S)-benzyl-1-(S)-(tert-butyl-dimethylsilanyloxy)-3-(4-(S)-isopropyl-2-oxo-oxazolidin-3-yl)-3-oxopropyl]-4-(R)-fluoropyrrolidine-1-carboxylic acid tert-butyl ester (2.779 g, 4.69 mmol) in THF (15 mL) at 0° C. Add 2 N lithium hydroxide (4.7 mL, 9.38 mmol) dropwise, stir 60 min and warm to room temperature. Add methanol (5 mL) and stir 18 h. Dilute with ethyl acetate and wash with 1 N HCl, saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate. Dissolve residue in dichloromethane (30 mL) and add diisopropylethylamine (1.2 mL, 7.03 mmol) followed by diphenylphosphoryl azide (1.1 mL, 5.16 mmol). Stir 1 h and add diisopropylethylamine (1.2 mL, 7.03 mmol) followed by diphenylphosphoryl azide (1.1 mL, 5.16 mmol). Stir 3.5 h, concentrate and purify (silica gel chromatography, eluting with hexanes and ethyl acetate) to give the title compound as a residue (0.79 g, 32%).

reactant | hydrogen peroxide | 28.1 mmol, 2.7 mL | OO | H2O2
reactant | 2-(R)-[2-(S)-benzyl-1-(S)-(tert-butyl-dimethylsilanyloxy)-3-(4-(S)-isopropyl-2-oxo-oxazolidin-3-yl)-3-oxopropyl]-4-(R)-fluoropyrrolidine-1-carboxylic acid tert-butyl ester | 4.69 mmol, 2.779 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)F)[C@H]([C@@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C31H49FN2O6Si
reactant | lithium hydroxide | 9.38 mmol, 2 N, 4.7 mL | [OH-].[Li+]
reactant | diisopropylethylamine | 7.03 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 5.16 mmol, 1.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diisopropylethylamine | 7.03 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 5.16 mmol, 1.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 2-(R)-[2-(S)-Azidocarbonyl-1-(S)-(tert-butyl-dimethylsilanyloxy)-3-phenylpropyl]-4-(R)-fluoropyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)F)[C@H]([C@H](CC1=CC=CC=C1)C(=O)N=[N+]=[N-])O[Si](C)(C)C(C)(C)C | C25H39FN4O4Si
